US04022794
Preparation of 7-[3-(3-Hydroxyoctyl)-1,4-dioxo-2-thiazolidinyl]heptanoic Acid
Sodium metaperiodate (0.75 g., 3.5 millimole) is added to a cold (0°-5° C.) solution of 7-[3-(3-hydroxyoctyl)-4-oxo-2-thiazolidinyl]heptanoic acid (1.24 g., 3.44 millimole) in methanol-water (5:4; v:v; 18 ml.). The resulting mixture is stirred and allowed to slowly warm to 25° C. (as the ice bath melts, etc.) over 16 hours. After removing the precipitated solid via filtration, the filtrate is diluted with cold water and extracted twice with chloroform. The organic extract is washed with saturated aqueous brine, dried over magnesium sulfate, filtered, and evaporated in vacuo leaving an oily residue which is chromatographed on silica gel (20 g.). Elution with chloroform-acetic acid (25:1; v:v) provides the title compound as a viscous, essentially colorless oil.

reactant | Sodium metaperiodate | 3.5 millimole, 0.75 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 7-[3-(3-hydroxyoctyl)-4-oxo-2-thiazolidinyl]heptanoic acid | 3.44 millimole, 1.24 g | OC(CCN1C(SCC1=O)CCCCCCC(=O)O)CCCCC | C18H33NO4S
solvent | methanol water | 18 ml | CO.O
product | 7-[3-(3-Hydroxyoctyl)-1,4-dioxo-2-thiazolidinyl]heptanoic Acid | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)O)CCCCC | C18H33NO5S
